US06545016B1
A stirred solution of 2,4-dichloro-5,6-dimethyl-3-nitropyridine (4.42 g, 20.0 mmol) in 50 mL of anhydrous DMF, under N2, was treated with triethylamine (5.58 mL, 40.0 mol) and 1,2-diamino-2-methylpropane (2.10 mL, 20.0 mmol). After stirring for 24 h, the reaction mixture was concentrated under reduced pressure. The resulting oil was treated with CH2Cl2 (200 mL) and H2O (100 mL). The aqueous layer was made basic (pH˜12) by addition of concentrated NH4OH solution. The layers were separated and the aqueous portion was extracted with an additional 100 mL of CH2Cl2. The combined organic portions were washed with H2O (2×) and brine. The organic portion was dried with Na2SO4 and concentrated to give an orange oil that solidified on standing. Column chromatography (SiO2, 2% MeOH/CHCl3) gave N1-(2-chloro-5,6-dimethyl-3-nitropyridin-4-yl)-2-methylpropane-1,2-diamine (3.14 g) as a yellow solid.

reactant | 2,4-dichloro-5,6-dimethyl-3-nitropyridine | 20.0 mmol, 4.42 g | ClC1=NC(=C(C(=C1[N+](=O)[O-])Cl)C)C | C7H6Cl2N2O2
reactant | triethylamine | 40.0 mol, 5.58 mL | C(C)N(CC)CC | C6H15N
reactant | 1,2-diamino-2-methylpropane | 20.0 mmol, 2.10 mL | NCC(C)(C)N | C4H12N2
reactant | MeOH CHCl3 | CO.C(Cl)(Cl)Cl
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | N1-(2-chloro-5,6-dimethyl-3-nitropyridin-4-yl)-2-methylpropane-1,2-diamine | 3.14 g | ClC1=NC(=C(C(=C1[N+](=O)[O-])NCC(C)(N)C)C)C | C11H17ClN4O2
